US08791107B2
PREPARATION x49: (S)-2-chloro-5-(2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
To a 5 mL microwave vial were added 4-(5-bromo-2-chloropyrimidin-4-yl)-N—((S)-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide (PREPARATION x48, 407 mg, 0.93 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (26.9 mg, 0.047 mmol), palladium (II)acetate (6.26 mg, 0.028 mmol), and potassium phosphate, tribasic (276 mg, 1.302 mmol). The vessel was evacuated, refilled with nitrogen, and sealed. Dioxane (3.9 mL) and tert-butanol (0.78 mL) were added and the mixture was heated in a microwave to 120° C. for 90 minutes. An additional portion of catalyst was added, and the reaction mixture was heated in the microwave to 120° C. for another 6 hours. The reaction mixture was subsequently partitioned between aqueous saturated NaHCO3 and ethyl acetate. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were dried over MgSO4, filtered, and concentrated. The dark brown crude product was purified by normal phase column chromatography (SiO2, 60 g) eluting with a gradient of 50-100% EtOAc in hexanes over 20 minutes. The product-containing fractions were combined and concentrated to give the title compound as a white foam (88 mg, 26.5%). ESI-MS m/z [M+H]+ calc'd for C17H17ClN4O2, 357.10. found 357.3.

reactant | 4-(5-bromo-2-chloropyrimidin-4-yl)-N—((S)-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide | 0.93 mmol, 407 mg | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)N[C@H]1CCC2=CC=CC=C12 | C18H18BrClN4O2
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.047 mmol, 26.9 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium (II)acetate | 0.028 mmol, 6.26 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-2-chloro-5-(2,3-dihydro-1H-inden-1-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 88 mg, 26.5% | ClC1=NC=2N3[C@H](C(N(C2C=N1)C1CCC2=CC=CC=C12)=O)COCC3 | C18H17ClN4O2
